US08377941B2
Intermediate 9: 6-(Trifluoromethyl)-3-pyridazinecarboxylic acid
A solution of ethyl 6-(trifluoromethyl)-3-pyridazinecarboxylate (73 mg, 0.332 mmol) in ethanol (1 ml) was treated with 2M sodium hydroxide (2 ml, 4.00 mmol) and stirred overnight at room temperature. The suspension was then acidified by addition of dilute hydrochloric acid and extracted twice with ethyl acetate. The combined extracts were dried over MgSO4 and evaporated under reduced pressure to afford the title compound as a pale solid (60 mg);

reactant | ethyl 6-(trifluoromethyl)-3-pyridazinecarboxylate | 0.332 mmol, 73 mg | FC(C1=CC=C(N=N1)C(=O)OCC)(F)F | C8H7F3N2O2
reactant | sodium hydroxide | 4.00 mmol, 2M, 2 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-(Trifluoromethyl)-3-pyridazinecarboxylic acid | 60 mg | FC(C1=CC=C(N=N1)C(=O)O)(F)F | C6H3F3N2O2
